US04396708
Synthesis of p-{2-[3-(2-chloroethylsulfonyl)-2-hydroxypropylsulfonyl]ethylsulfonyl}vinylbenzene (M-6)
In a 3 liter reaction vessel were placed 1 liter of distilled water, 1 liter of methanol and 157 g of 1,3-di(2-chloroethylsulfonyl)-2-hydroxypropane. The vessel was heated to 46° C. for the purpose of dissolution. Thereto, a solution of 52 g sodium styrenesulfinate dissolved in a mixture of 100 ml of distilled water and 100 ml of methanol was added dropwise over a period of about 1 hour, and the heating and the stirring were further continued for 5 hours. A crystal deposited was filtered off, washed with methanol, and dried in vacuo. Thus, 55 g of M-6 was obtained. The yield was 49%.

reactant | 1,3-di(2-chloroethylsulfonyl)-2-hydroxypropane | 157 g | ClCCS(=O)(=O)CC(CS(=O)(=O)CCCl)O | C7H14Cl2O5S2
reactant | sodium styrenesulfinate | 52 g | C(=CC1=CC=CC=C1)S(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 1 liter | CO | CH4O
solvent | water | 1 liter | O | H2O
product | p-{2-[3-(2-chloroethylsulfonyl)-2-hydroxypropylsulfonyl]ethylsulfonyl}vinylbenzene | yield was 49% | ClCCS(=O)(=O)CC(CS(=O)(=O)CCS(=O)(=O)C=CC1=CC=CC=C1)O | C15H21ClO7S3
